US08530493B2
22. (3aSR,10RS)-2-(2-Bromo-ethyl)-6-ethoxy-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
To a solution of 500 mg (1.31 mmol) (1RS,3SR)-6-Ethoxy-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester in 25 ml 2-butanon are added 120 μl (1.31 mmol) bromoethyl isocyanate. The mixture is heated to reflux for 24 h. The solvent is removed under reduced pressure. The crude product is purified by column chromatography (silica gel; toluene, ethyl acetate 6:1). 260 mg (40%) of the title compound are obtained as a colorless solid. m.p.: 250-252° C., MS: m/z (MH+)=498.1/500.0

reactant | (1RS,3SR)-6-Ethoxy-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 1.31 mmol, 500 mg | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OCC)C1=CC(=CC=C1)O)C | C22H24N2O4
reactant | bromoethyl isocyanate | 1.31 mmol, 120 μl | BrCCN=C=O | C3H4BrNO
solvent | 2-butanon | 25 ml | CC(CC)=O | C4H8O
product | (3aSR,10RS)-2-(2-Bromo-ethyl)-6-ethoxy-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | 260 mg, 40% | BrCCN1C(C2(N(C(C=3NC4=CC=C(C=C4C3C2)OCC)C2=CC(=CC=C2)O)C1=O)C)=O | C24H24BrN3O4
